US08067445B2
Step 6: 2-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-5′-ethoxycarbonylmethyl-2′-methoxy-biphenyl-4-carboxylic acid
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: 3-[(benzyloxycarbonyl-ethyl-amino)-methyl]-4-bromo-benzoic acid and [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester. M+H is 506.

reactant | 3-[(benzyloxycarbonyl-ethyl-amino)-methyl]-4-bromo-benzoic acid | C(C1=CC=CC=C1)OC(=O)N(CC)CC=1C=C(C(=O)O)C=CC1Br | C18H18BrNO4
reactant | [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C)=O | C17H25BO5
product | 2-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-5′-ethoxycarbonylmethyl-2′-methoxy-biphenyl-4-carboxylic acid | C(C1=CC=CC=C1)OC(=O)N(CC)CC1=C(C=CC(=C1)C(=O)O)C1=C(C=CC(=C1)CC(=O)OCC)OC | C29H31NO7
